US07728025B2
(Step 1) Production of 2-fluoro-N-methoxy-N-methylbenzamide
5.79 g of N-methoxy-N-methylamine hydrochloride and 12.4 g of 1-ethyl-3-(3′-dimethylaminopropyl)-carbodiimide hydrochloride were added to a pyridine (80 ml) suspension of 10 g of 2-fluoro-4-nitrobenzoic acid, and the reaction liquid was stirred overnight at room temperature. Pyridine was evaporated away under reduced pressure, and water was added to it. The resulting deposit was taken out through filtration, washed with water, and dried to obtain the entitled compound as a pale yellow solid.

reactant | N-methoxy-N-methylamine hydrochloride | 5.79 g | Cl.CONC
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)-carbodiimide hydrochloride | 12.4 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-fluoro-4-nitrobenzoic acid | 10 g | FC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4FNO4
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 2-fluoro-N-methoxy-N-methylbenzamide | FC1=C(C(=O)N(C)OC)C=CC=C1 | C9H10FNO2
